US05760259
8-(p-Methoxyphenyl)-7-octennitrile
This compound was synthesized from 6-cyanohexyltriphenylphosphonium bromide (9.05 g, 20 mmol) and p-anisaldehyde (2.72 g, 20 mmol) in THF (100 mL) by a Wittig reaction. Kugelrohr distillation afforded the products (3.26 g, 71%) as a colorless liquid (bp: 143°-146° C./0.05 torr). IR: 2285 cm-1 ; 1H-NMR: 1.50 (m, 6H), 2.30 (m, 4H), 3.80 (s, 3H), 5.50 (m, 1H), 6.30 (d, 1H), 7.05 (q, 4H).

reactant | 6-cyanohexyltriphenylphosphonium bromide | 20 mmol, 9.05 g | [Br-].C(#N)CCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | p-anisaldehyde | 20 mmol, 2.72 g | C(C1=CC=C(C=C1)OC)=O | C8H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 8-(p-Methoxyphenyl)-7-octennitrile | 3.26 g, 71% | COC1=CC=C(C=C1)C=CCCCCCC#N | C15H19NO
